US08609698B2
Step b): 5-(2,2-Dimethylpropoxy)-2-hydrazinopyridine
6.2 g (30.8 mmol) of 2-chloro-5-(2,2-dimethylpropoxy)pyridine together with 60 ml (1.2 mol) of hydrazine hydrate are divided into four portions of equal size, and in each case 10 ml of ethanol are added. Each portion is reacted in a single-mode microwave oven (CEM Explorer) at 170° C. (200 Watt) for in each case 12 h. The four mixtures are then combined, and the solvent is removed. The residue is taken up in ethyl acetate and washed in each case once with saturated sodium bicarbonate solution and saturated sodium chloride solution. The mixture is dried over magnesium sulfate and the solvent is removed under reduced pressure.

reactant | 2-chloro-5-(2,2-dimethylpropoxy)pyridine | 30.8 mmol, 6.2 g | ClC1=NC=C(C=C1)OCC(C)(C)C | C10H14ClNO
reactant | hydrazine hydrate | 1.2 mol, 60 ml | O.NN
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | 5-(2,2-Dimethylpropoxy)-2-hydrazinopyridine | CC(COC=1C=CC(=NC1)NN)(C)C | C10H17N3O
